US05641777
A) 1-Benzyl-4-carbamoylpiperidine
85.5 g of benzyl bromide are added dropwise at RT to a mixture of 58.2 g of isonipecotamide and 69 g of K2CO3 in 275 ml of DMF and the reaction mixture is stirred for 2 hours at 50° C. It is concentrated under vacuum, the residue is taken up with water and extracted with DCM, the organic phase is washed with water and dried over Na2SO4 and the solvent is evaporated off under vacuum to give 62 g of the expected product after crystallization from 300 ml of water and drying under vacuum.

reactant | benzyl bromide | 85.5 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | isonipecotamide | 58.2 g | N1CCC(C(=O)N)CC1 | C6H12N2O
reactant | K2CO3 | 69 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 275 ml | CN(C)C=O | C3H7NO
product | 1-Benzyl-4-carbamoylpiperidine | 62 g | C(C1=CC=CC=C1)N1CCC(CC1)C(N)=O | C13H18N2O
